US05650428
Methanesulfonyl chloride (hereinafter referred to as mesyl chloride) (96 μl) was added to a solution of (S)-2-(4-chlorobenzenesulfonylamino)-N-(4-ethoxycarbonylphenyl)-3-hydroxypropanamide (132 mg) in pyridine (2.5 ml) and the mixture was stirred for 2 hours at room temperature. The reaction mixture was poured into a saturated saline solution and extracted with ethyl acetate. The combined ethyl acetate layers were washed with saturated saline solution, 1N HCl, and a saturated saline solution, and dried over Na2SO4. Then, the solvent was evaporated under reduced pressure to obtain (S)-2-(4-chlorobenzenesulfonylamino)-N-(4-ethoxycarbonylphenyl)-3-methanesulfonyloxypropanamide (133 mg).

reactant | Methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | mesyl chloride | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | (S)-2-(4-chlorobenzenesulfonylamino)-N-(4-ethoxycarbonylphenyl)-3-hydroxypropanamide | 132 mg | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)NC1=CC=C(C=C1)C(=O)OCC)CO | C18H19ClN2O6S
solvent | pyridine | 2.5 ml | N1=CC=CC=C1 | C5H5N
product | (S)-2-(4-chlorobenzenesulfonylamino)-N-(4-ethoxycarbonylphenyl)-3-methanesulfonyloxypropanamide | 133 mg | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(=O)NC1=CC=C(C=C1)C(=O)OCC)COS(=O)(=O)C | C19H21ClN2O8S2
